US07737149B2
N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-2-[(3-methyl-1,2-oxazol-5-yl)methylamino]benzamide
NaHMDS (1M solution in THF, 0.83 ml, 0.828 mmol, 2.5 eq) was added dropwise to a solution of tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (90 mg, 0.364 mmol, 1.1 eq) and methyl 2-{[(3-methylisoxazol-5-yl)methyl]amino}-benzoate (115 mg, 0.331 mmol, 1 eq), stirred in THF (4 ml) under nitrogen. The solution was stirred at room temperature for 50 mins. The solution was quenched with satd. aq. NH4Cl, diluted with water (5 ml) and extracted with ethyl acetate (3×8 ml). The crude product was purified by silica column chromatography, eluting with a gradient of 0-1.5% MeOH in DCM. Fractions containing product were evaporated and further purified by reverse phase prep. HPLC purification, eluting with a gradient of MeCN/H2O+0.1% TFA to afford the title compound as an off-white solid (16 mg, 10% yield); 1H NMR (399.902 MHz, DMSO) δ 2.20 (s, 3H), 2.88 (s, 4H), 3.73 (s, 6H), 4.57 (s, 2H), 6.21 (s, 1H), 6.33 (t, 1H), 6.41 (bs, 1H), 6.43 (d, 3H), 6.65 (t, 1H), 6.77 (d, 1H), 7.28-7.34 (m, 1H), 7.75-7.79 (m, 1H), 8.10 (bs, 1H), 10.50 (s, 1H). MS: m/z 462 (MH+)

reactant | NaHMDS | 0.828 mmol, 1M, 0.83 ml, 2.5 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 0.364 mmol, 90 mg, 1.1 eq | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | methyl 2-{[(3-methylisoxazol-5-yl)methyl]amino}-benzoate | 0.331 mmol, 115 mg, 1 eq | CC1=NOC(=C1)CNC1=C(C(=O)OC)C=CC=C1 | C13H14N2O3
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-2-[(3-methyl-1,2-oxazol-5-yl)methylamino]benzamide | 16 mg, 10% yield | COC=1C=C(C=C(C1)OC)CCC1=CC(=NN1)NC(C1=C(C=CC=C1)NCC1=CC(=NO1)C)=O | C25H27N5O4
